US05268483
3-(2-Amino-4-thiazolyl)-L alanine containing methanol, 26.3 kg (76 mol) and 72 L of methanol are charged into a reactor and stirred at 5° C., followed by 16.9 kg of anhydrous hydrogen chloride gas and stirred at 25° C. for 5 hours. The solution is heated to reflux and then cooled to 5° C. and held for 1 hour. The product is filtered and dried under vacuum at 50° C. to give 17.7 kg of 3-(2-amino-4-thiazolyl)-L-alanine methyl ester dihydrochloride as an off-white solid, 99% pure by HPLC; IR (mineral oil): 3410 (sh), 1749 (sh), 1631 (sh), 1225 (m) cm-1.

reactant | 3-(2-Amino-4-thiazolyl)-L alanine | NC=1SC=C(N1)C[C@H](N)C(=O)O | C6H9N3O2S
reactant | hydrogen chloride | 16.9 kg | Cl | ClH
reactant | methanol | 72 L | CO | CH4O
product | 3-(2-amino-4-thiazolyl)-L-alanine methyl ester dihydrochloride | 17.7 kg | Cl.Cl.COC([C@@H](N)CC=1N=C(SC1)N)=O | InChI=1S/C7H11N3O2S.2ClH/c1-12-6(11)5(8)2-4-3-13-7(9)10-4;;/h3,5H,2,8H2,1H3,(H2,9,10);2*1H/t5-;;/m0../s1
